US08492378B2
2-[3-[4-(methoxymethyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
To a mixture of [4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol (193 mg, 0.630 mmol), tetrahydrofuran (3 mL) and N,N-dimethylformamide (3 mL) was added sodium hydride (60% in oil, 37.8 mg, 0.945 mmol) at room temperature, and the resulting mixture was stirred for 10 min. Iodomethane (0.0588 mL, 0.945 mmol) was added to the reaction mixture, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/tetrahydrofuran=2/1), and crystallized from hexane/tetrahydrofuran to give the title compound (146 mg, yield 73%) as colorless crystals.

reactant | [4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]methanol | 0.630 mmol, 193 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)CO)C1 | C18H14N2O3
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.945 mmol, 37.8 mg | [H-].[Na+]
reactant | Iodomethane | 0.945 mmol, 0.0588 mL | IC | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[3-[4-(methoxymethyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 146 mg, yield 73% | COCC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C19H16N2O3
